data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:1]1([O:5][CH3:14])[c:15]([B-:22]([F:2])([F:3])[F:4])[s:26][cH:11][cH:24]1.[cH:6]1[cH:13][cH:7][c:8]2[c:16]([o+:9][c:12](-[c:23]3[cH:19][cH:17][cH:25][cH:18][cH:20]3)[cH:10][cH:21]2)[cH:27]1>>[C:1]1([O:5][CH3:14])=[CH:24][CH:11]([CH:21]2[c:8]3[cH:7][cH:13][cH:6][cH:27][c:16]3[O:9][C:12]([c:23]3[cH:19][cH:17][cH:25][cH:18][cH:20]3)=[CH:10]2)[S+:26]=[C:15]1[B-:22]([F:2])([F:3])[F:4]", "epd": [["LP-/Pi+", [26], [15, 26]], ["Pi-/Pi+", [1, 15], [24, 1]], ["Pi-/Sigma+", [11, 24], [11, 21]], ["Pi-/Pi+", [21, 10], [10, 12]], ["Pi-/LP+", [12, 9], [9]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:5][c:37]([B-:38]2([c:14]3[s:22][c:11]([CH3:28])[cH:17][cH:32]3)[O:8][c:39]3[cH:34][cH:36][cH:35][cH:33][c:40]3[O:9]2)[cH:6][cH:2][c:7]1[C:25]([F:19])([F:20])[F:21].[cH:3]1[cH:16][cH:4][c:10]2[c:18]([o+:12][c:15](-[c:30]3[cH:26][cH:23][cH:31][cH:24][cH:27]3)[cH:13][cH:29]2)[cH:41]1>>[cH:1]1[cH:5][c:37](-[b-:38]2[o+:8][c:39]3[cH:34][cH:36][cH:35][cH:33][c:40]3[o:9]2)[cH:6][cH:2][c:7]1[C:25]([F:19])([F:20])[F:21].[cH:3]1[cH:16][cH:4][c:10]2[c:18]([cH:41]1)[O:12][C:15]([c:30]1[cH:26][cH:23][cH:31][cH:24][cH:27]1)=[CH:13][CH:29]2[c:14]1[s:22][c:11]([CH3:28])[cH:17][cH:32]1", "epd": [["LP-/Pi+", [8], [38, 8]], ["Sigma-/Sigma+", [14, 38], [14, 29]], ["Pi-/Pi+", [29, 13], [13, 15]], ["Pi-/LP+", [15, 12], [12]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:5])([Cl:6])[CH:19]=[C:22]([Cl:23])[c:24]2[cH:3][cH:8][cH:21][n:4][c:18]2[C:20]1=[O:15].[cH:2]1[cH:11][cH:9][c:16]2[c:7]([cH:25]1)[CH:26]([Zn-:14]([Cl:12])[Cl:13])[CH:17]=[CH:10]2>>[Cl:12][Zn:14][Cl:13].[c:1]1([Cl:6])[cH:19][c:22]([Cl:23])[c:24]2[cH:3][cH:8][cH:21][n:4][c:18]2[c:20]1[O-:15].[cH:2]1[cH:11][cH:9][c:16]2[c:7]([cH:25]1)[CH:26]([Cl:5])[CH:17]=[CH:10]2", "epd": [["Sigma-/Sigma+", [26, 14], [26, 5]], ["Sigma-/Pi+", [5, 1], [1, 20]], ["Pi-/LP+", [20, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:16]1[cH:14][c:20]([N+:23](=[O:13])[O-:27])[cH:26][c:15]2[c:38]1[n:22][o:31][n+:41]2[O-:6])[O-:21].[cH:3]1[c:8]([CH3:28])[s:39][c:7]([B-:9]2([c:40]3[cH:29][c:10]([C:4]([F:32])([F:33])[F:34])[cH:17][c:11]([C:5]([F:35])([F:36])[F:37])[cH:30]3)[O:24][CH2:18][CH2:19][O:25]2)[cH:12]1>>[C:4]([c:10]1[cH:17][c:11]([C:5]([F:35])([F:36])[F:37])[cH:30][c:40]([B-:9]2=[O+:24][CH2:18][CH2:19][O:25]2)[cH:29]1)([F:32])([F:33])[F:34].[N+:1](=[O:2])([C:16]1=[CH:14][C:20](=[N+:23]([O-:13])[O-:27])[CH:26]([c:7]2[cH:12][cH:3][c:8]([CH3:28])[s:39]2)[c:15]2[c:38]1[n:22][o:31][n+:41]2[O-:6])[O-:21]", "epd": [["LP-/Pi+", [24], [9, 24]], ["Sigma-/Sigma+", [7, 9], [7, 26]], ["Pi-/Pi+", [26, 20], [20, 23]], ["Pi-/LP+", [23, 13], [13]]]}
{"reaction_name": "Acyloxonium rearrangement", "rsmi": "[CH3:1][C:5](=[O:2])[O:6][CH2:7][CH2:4][Cl:3]>>[CH3:1][C:5](=[O:2])[O+:6]1[CH2:4][CH2:7]1.[Cl-:3]", "epd": [["LP-/Sigma+", [6], [4, 6]], ["Sigma-/LP+", [3, 4], [3]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH2:1]1[CH2:13][c:28]2[c:11]3[c:29]([cH:22][n:27][cH:21]2)[CH2:14][CH2:2][CH2:25][N:6]3[CH2:24]1.[cH:3]1[cH:10][cH:4][c:5]2[c:12]([o+:7][c:9](-[c:20]3[cH:17][cH:15][cH:23][cH:16][cH:18]3)[cH:8][cH:19]2)[cH:26]1>>[CH2:1]1[CH2:13][C:28]2=[CH:21][N:27]([CH:19]3[c:5]4[cH:4][cH:10][cH:3][cH:26][c:12]4[O:7][C:9]([c:20]4[cH:17][cH:15][cH:23][cH:16][cH:18]4)=[CH:8]3)[CH:22]=[C:29]3[C:11]2=[N+:6]([CH2:24]1)[CH2:25][CH2:2][CH2:14]3", "epd": [["LP-/Pi+", [6], [11, 6]], ["Pi-/Pi+", [28, 11], [21, 28]], ["Pi-/Sigma+", [27, 21], [27, 19]], ["Pi-/Pi+", [19, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "C-Azo coupling of enolates", "rsmi": "[CH2-:1][C:11]([CH3:2])=[O:3].[c:4]1([N+:12]#[N:10])[cH:6][cH:8][cH:5][cH:9][cH:7]1>>[CH2:1]([C:11]([CH3:2])=[O:3])[N:10]=[N:12][c:4]1[cH:6][cH:8][cH:5][cH:9][cH:7]1", "epd": [["LP-/Sigma+", [1], [1, 10]], ["Pi-/LP+", [10, 12], [12]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[N+:4](=[N-:10])=[N-:11].[O:1]=[N+:16]([O-:7])[c:13]1[cH:2][cH:5][c:8]([CH:14]=[CH:9][N+:12]([O-:15])=[O:17])[cH:6][cH:3]1>>[O:1]=[N+:16]([O-:7])[c:13]1[cH:2][cH:5][c:8]([CH:14]([CH:9]=[N+:12]([O-:15])[O-:17])[N-:10][N+:4]#[N:11])[cH:6][cH:3]1", "epd": [["LP-/Pi+", [11], [4, 11]], ["Pi-/Sigma+", [10, 4], [10, 14]], ["Pi-/Pi+", [14, 9], [9, 12]], ["Pi-/LP+", [12, 17], [17]]]}
{"reaction_name": "Blanc chloromethylation", "rsmi": "[c:1]1([H:9])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[CH2+:7][Cl:8]>>[c:1]1([CH2:7][Cl:8])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:9]", "epd": [["Sigma-/Sigma+", [1, 9], [1, 7]]]}
